US04761424
A mixture of 20 g (78 mmol) of 4-[2-[3,4-dimethoxyphenyl)ethyl]aniline which is prepared in Preparation 1 above and 300 ml of of 48% hydrobromic acid is stirred at reflux under nitrogen for seven hours and at room temperature overnight. The resultant precipitate is collected, washed with ether, and redissolved in 1N.NaOH. The solution is acidified to pH 6 with glacial HOAc and the resultant precipitate is collected as crude product. Recrystallization from H2O and then from MeOH yields the 4-[2-(3,4-dihydroxyphenyl)ethyl]benzenamine as an acetate salt; yield, 13.4 g (76%), mp 216°-218° C.

reactant | 4-[2-[3,4-dimethoxyphenyl)ethyl]aniline | 78 mmol, 20 g | COC=1C=C(C=CC1OC)CCC1=CC=C(N)C=C1 | C16H19NO2
reactant | hydrobromic acid | Br | BrH
product | 4-[2-(3,4-dihydroxyphenyl)ethyl]benzenamine | OC=1C=C(C=CC1O)CCC1=CC=C(C=C1)N | C14H15NO2
